US07456164B2
3-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)-3H-imidazo[4,5-b]pyridine
N*2*-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-pyridine-2,3-diamine (350 mg, 0.85 mmol), trimethylorthoformate (5 mL) and formic acid (0.5 mL) were stirred at 40° C. for 3 hours. The reaction mixture was concentrated in vacuo and the residue partitioned between saturated NaHCO3 solution (40 mL) and DCM (2×40 mL). The organics were combined, dried over sodium sulphate, filtered and concentrated in vacuo to give a brown oil. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (97:3:0.3 to 93:7:0.7 by volume) to provide the title compound as a brown oil (255 mg, 71%). 1H NMR (400 MHz, CDCl3) δ 1.78-1.82 (m, 4H), 1.99-2.10 (m, 6H), 2.57 (m, 4H), 2.64 (t, 2H), 3.56 (m, 2H), 3.92 (m, 2H), 4.03 (t, 2H), 4.40 (s, 2H), 6.82 (s, 1H), 6.90 (d, 2H), 7.02 (d, 2H), 7.20 (m, 1H), 7.99 (d, 1H), 8.38 (d, 1H). HRMS ESI+ m/z 421.2586 [MH]+.

reactant | N*2*-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-pyridine-2,3-diamine | 0.85 mmol, 350 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CNC1=NC=CC=C1N | C24H34N4O2
reactant | trimethylorthoformate | 5 mL | COC(OC)OC | C4H10O3
solvent | formic acid | 0.5 mL | C(=O)O | CH2O2
product | 3-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)-3H-imidazo[4,5-b]pyridine | 255 mg, 71% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN1C=NC=2C1=NC=CC2 | C25H32N4O2
